US04861893
Ethyl chloroformate (3.5 ml) was added to a stirred suspension of cuprous chloride (0.33 g) in dry tetrahydrofuran (100 ml) under nitrogen. After cooling to 0°, a solution of methyl nicotinate (5.0 g) in tetrahydrofuran (10 ml) was added slowly followed by the addition of 4-fluorophenyl magnesium bromide solution [from 4-bromo-fluorobenzene (4.4 ml) and magnesium (0.93 g) in tetrahydrofuran (25 ml)]. After stirring for 20 minutes, the mixture was diluted with ethyl acetate and decomposed by the addition of a saturated ammonium chloride/ammonia solution (1:1, 100 ml). The organic phase was washed with dilute acid and brine and dried over anhydrous sodium sulphate. Evaporation of the solvent gave 1,4-dihydro-1-ethoxycarbonyl-4-(4'-fluorophenyl)-3-methoxycarbonylpyridine as an off-white solid (10.37 g, 93%). A sample crystallised from ethyl acetate had m.p. 83-85°.

reactant | Ethyl chloroformate | 3.5 ml | ClC(=O)OCC | C3H5ClO2
reactant | methyl nicotinate | 5.0 g | C(C1=CN=CC=C1)(=O)OC | C7H7NO2
reactant | 4-fluorophenyl magnesium bromide | 4.4 ml, 0.93 g | FC1=CC=C(C=C1)[Mg]Br
reactant | ammonium chloride ammonia | 100 ml | [Cl-].[NH4+].N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,4-dihydro-1-ethoxycarbonyl-4-(4'-fluorophenyl)-3-methoxycarbonylpyridine | 10.37 g, 93% | C(C)OC(=O)N1C=C(C(C=C1)C1=CC=C(C=C1)F)C(=O)OC | C16H16FNO4
